US08168666B2
b) Preparation of 3-[4-(t-butyl-diphenylsilyloxy)-2-butynyl]-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione
5-Methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione (248 mg), triphenylphosphine (655 mg) and a solution of ethyl azodicarboxylate in toluene (2.2 mol/L, 1.00 mL) were added to a mixed solution of t-butyl-diphenylsilyloxy-2-butyn-1-ol (326 mg, 1.00 mmol) in tetrahydrofuran (10 mL) at room temperature. After completion of the reaction, the solvent was evaporated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 303 mg of the title compound (yield: 55%) as a colorless oil.

reactant | 5-Methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione | 248 mg | CC1(C(NC(N1)=O)=O)C1=CC=C(C=C1)OC(C)C | C13H16N2O3
reactant | triphenylphosphine | 655 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | N(=NC(=O)[O-])C(=O)OCC
reactant | t-butyl-diphenylsilyloxy-2-butyn-1-ol | 1.00 mmol, 326 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C#CC)O | C20H24O2Si
solvent | toluene | 2.2 mol/L, 1.00 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[4-(t-butyl-diphenylsilyloxy)-2-butynyl]-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione | 303 mg, yield: 55% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC#CCN1C(NC(C1=O)(C1=CC=C(C=C1)OC(C)C)C)=O | C33H38N2O4Si
